US06090950
(S)-1-tert-Butylamino-2,3-propanediol (Ligand 3) ((S)-PROP).
(S)-Glycidol was added dropwise, with stirring, to a mixture of 54.7 g of tert-butylamine and 25 mL of water, heated at reflux. The resulting mixture was heated at reflux for 12 h, and was thereafter allowed to cool to room temperature. The mixture was concentrated in vacuo and was treated with ether to effect crystallization. 28.6 g (78%) of crystalline product was thus obtained: 1H NMR (CDCl3) δ1.0 (s, C(CH3)3), 2.4-2.6 (m), 3.3-4.2 (m); 13C NMR (CDCl3) δ28.6 (3 CH3), 45.2 (CH2NH), 50.2 (C(CH3)3), 65.5 (CH2OH), 70.6 (CHOH).

reactant | (S)-Glycidol | C1[C@@H](O1)CO | C3H6O2
reactant | tert-butylamine | 54.7 g | C(C)(C)(C)N | C4H11N
solvent | water | 25 mL | O | H2O
product | (S)-1-tert-Butylamino-2,3-propanediol | 28.6 g, 78% | C(C)(C)(C)NC[C@@H](CO)O | C7H17NO2
